US04311700
6-Methyl-11-[(4-methyl-1-piperazinyl)acetyl]-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one-N-oxide
A solution of 0.7 g (3.4 mmol) of m-chloroperbenzoic acid (85 percent) in 10 ml of methanol is slowly added at room temperature to a suspension of 1 g (2,3 mmol) of 6-methyl-11-[(4-methyl-1-piperazinyl)acetyl]-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one in 40 ml of methanol. After stirring for 3 hours at 20° C. and filtering, the filtrate is concentrated in vacuo and the residue is purified by chromatography on neutral silica gel using 20:1 chloroform/methanol as the eluant. Yield: 0.5 g (48%).

reactant | m-chloroperbenzoic acid | 3.4 mmol, 0.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-methyl-11-[(4-methyl-1-piperazinyl)acetyl]-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one | 2,3 mmol, 1 g | CN1C(C2=C(N(C3=C1C=CC=C3)C(CN3CCN(CC3)C)=O)N=C(N=C2)C2=CC=CC=C2)=O | C25H26N6O2
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | 6-Methyl-11-[(4-methyl-1-piperazinyl)acetyl]-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one-N-oxide | CN1C(C=2C(N(C3=C1C=CC=C3)C(CN3CCN(CC3)C)=O)=[N+](C(=NC2)C2=CC=CC=C2)[O-])=O | C25H26N6O3
